US07825128B2
b) Preparation of (RS)—S-(4-aminophenyl)-N-(2-methoxy-acetyl)-S-methylsulphoximide
107 mg (0.39 mmol) (RS)—S-(4-nitrophenyl)-N-(2-methoxy-acetyl)-S-methylsulphoximide is dissolved in 13.6 ml ethanol and treated with 40 mg palladium on activated charcoal (10% Pd). The mixture is stirred under hydrogen at normal pressure for 60 minutes at 24° C. The catalyst is filtered off and the solution concentrated. After chromatographic purification (silica gel, hexane/ethyl acetate (0-50% ethyl acetate)), 50 mg (53%) of the desired product is obtained.

reactant | (RS)—S-(4-nitrophenyl)-N-(2-methoxy-acetyl)-S-methylsulphoximide | 0.39 mmol, 107 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=NC(COC)=O)C | C10H12N2O5S
solvent | ethanol | 13.6 ml | C(C)O | C2H6O
catalyst | palladium on activated charcoal | 40 mg | [Pd] | Pd
product | (RS)—S-(4-aminophenyl)-N-(2-methoxy-acetyl)-S-methylsulphoximide | 50 mg, 53% | NC1=CC=C(C=C1)S(=O)(=NC(COC)=O)C | C10H14N2O3S
